US05821246
A mixture of 2-chloro-4-nitroaniline (4.33 g), benzenesulphonyl chloride (3.25 ml) and pyridine (2.5 ml) was stirred and heated to 100° C. for 18 hours. The mixture was cooled to ambient temperature and partitioned between methylene chloride and 2M aqueous hydrochloric acid. The organic phase was washed with water, dried and evaporated. The residue was recrystallised from ethyl acetate to give N-(2-chloro-4-nitrophenyl)benzenesulphonamide (6.07 g), m.p. 155°-157° C.

reactant | 2-chloro-4-nitroaniline | 4.33 g | ClC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | benzenesulphonyl chloride | 3.25 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | pyridine | 2.5 ml | N1=CC=CC=C1 | C5H5N
product | N-(2-chloro-4-nitrophenyl)benzenesulphonamide | 6.07 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])NS(=O)(=O)C1=CC=CC=C1 | C12H9ClN2O4S
